US07790898B2
(2,4-dichlorophenyl)-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-methanone
The compound of Example 24 was prepared according to the general preparation protocol A from 2,4-dichlorobenzoyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | 2,4-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | (2,4-dichlorophenyl)-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-methanone | ClC1=C(C=CC(=C1)Cl)C(=O)N1CC(CCC1)(C1=CC(=CC=C1)OC)O | C19H19Cl2NO3
